Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back pain, leg weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI(4): ___ with history of metastatic rectal adencocarcinoma
(dx in ___ with enlarging sacral mass, recently admitted to
___ for palliative radiation therapy discharged on
___, who presented here as a transfer from ___ after
re-presenting there with ongoing back pain and new onset leg
weakness with difficulty walking. 

The patient reports 2 months of ongoing bilateral lumbar back
pain with pain radiating down bilateral posterior legs. He was
hospitalized and discharged yesterday from ___ and
was started on palliative radiation therapy for the sacral mass.
He reports that the pain was slightly improved and he was even
able to walk on the day of discharge. But at home he developed
worsening pain and difficulty walking due to weakness in his b/l
___.

Of note, the patient was initially diagnosed with adenocarcinoma
of the rectum in ___, at which time he had chemotherapy and
radiation therapy, but did not complete radiation due to
inability to tolerate. Had surgical resection but no
postoperative adjuvant chemotherapy. During last hospitalization
he was started on palliative radiation therapy by ___
his sacral mass which had shown interval increase in size 6.9cm
on CT ___. His primary oncologist is Dr ___ at ___. 

On arrival to the ED,
initial vitals were: 97.2 88 114/90 18 96% RA 

Code cord was called and L Spine MRI was ordered.

L spine MRI showed no cord compression, but did find the
following:
"Lobulated, heterogeneous low signal mass with peripheral 
enhancement centered in the distal left sacrum involving the 
left
greater than right S3 foramina measuring approximately 7.7 x 5.2
x 4.9 cm (05:44). Intrinsic signal of the mass suggests
hemorrhage and necrosis.  There is intraspinal extension of the
mass through the sacral spinal canal with extension superiorly 
to
the L4-5 level with compression of the posterior thecal sac.  
The
intraspinal component of the mass appears similar with 
peripheral
enhancement and likely central necrosis and hemorrhage." Also
showed: Central disc protrusion at L4-L5 with moderate spinal
canal stenosis and severe bilateral neural foraminal stenosis. 

Given no cord compression, patient was admitted to medicine for
pain control. The final read had not yet resulted until he was 
on
the floor, at which time neurosurgery was called, 
recommendations
currently pending.

On arrival to the floor, the patient reports ongoing pain and
weakness specifically trying to "push down on the gas petal". He
reports that he usually lives alone in a ___ story apartment but
has been having to stay with his sister due to his leg weakness.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
-Metastatic rectal cancer dx in ___, chemo/radiation at that
time, s/p surgical resection, now w/ enlarging sacral mass as of
___ CT scan. Underwent palliative radiation during past
admission ___ at ___.

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
Admission:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  Colostomy bag with brown soft stool. Urostomy
tube in place as well, draining normal appearing urine.
GU: No suprapubic fullness or tenderness to palpation
MSK: Tender to palpation along Sacral spine centrally.
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, Bilateral ___ with ___ strength in every maneuver
except plantarflexion, which was ___ strength on the R, ___ on
the L.
PSYCH: pleasant, appropriate affect

Discharge:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  Colostomy bag with brown soft stool. Urostomy
tube in place as well, draining normal appearing urine.
GU: No suprapubic fullness or tenderness to palpation
MSK: Tender to palpation along Sacral spine centrally.
SKIN: On L buttock/sacrum, there is a 2 cm area of confluent
vesicles without significant surrounding erythema, tender to the
touch.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, Bilateral ___ with ___ strength in every maneuver
except plantarflexion, which was ___ strength on the R, ___ on
the L.
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admission:

___ 02:27AM   GLUCOSE-87 UREA N-25* CREAT-1.1 SODIUM-136 
POTASSIUM-4.5 CHLORIDE-99 TOTAL CO2-22 ANION GAP-15
___ 02:27AM   estGFR-Using this
___ 02:27AM   ALT(SGPT)-69* AST(SGOT)-29 ALK PHOS-168* TOT 
BILI-0.4
___ 02:27AM   ALBUMIN-2.9* CALCIUM-8.7 PHOSPHATE-4.2 
MAGNESIUM-2.1
___ 02:27AM   WBC-7.4 RBC-3.91* HGB-8.6* HCT-28.0* MCV-72* 
MCH-22.0* MCHC-30.7* RDW-17.9* RDWSD-46.2
___ 02:27AM   NEUTS-63.2 ___ MONOS-8.1 EOS-2.8 
BASOS-0.3 IM ___ AbsNeut-4.68 AbsLymp-1.53 AbsMono-0.60 
AbsEos-0.21 AbsBaso-0.02
___ 02:27AM   PLT COUNT-509*
___ 02:27AM   ___ PTT-30.8 ___

Discharge:

___ 04:40AM BLOOD WBC-9.0 RBC-4.24* Hgb-9.4* Hct-30.3* 
MCV-72* MCH-22.2* MCHC-31.0* RDW-17.9* RDWSD-45.6 Plt ___
___ 04:40AM BLOOD Neuts-71.0 Lymphs-17.0* Monos-7.3 Eos-1.0 
Baso-0.2 Im ___ AbsNeut-6.36* AbsLymp-1.52 AbsMono-0.65 
AbsEos-0.09 AbsBaso-0.02
___ 04:40AM BLOOD Plt ___
___ 04:40AM BLOOD ___ PTT-76.1* ___
___ 04:40AM BLOOD Glucose-111* UreaN-27* Creat-0.9 Na-137 
K-4.9 Cl-100 HCO3-23 AnGap-14

Imaging:
Final Report 
EXAMINATION:  MR CODE CORD COMPRESSION PT27 MR SPINE 
  
INDICATION:  ___ year old man with metz Ca, urostomy/colostomy, 
enlarging 
sacral mass. new to system with bilateral leg weakness// r/o 
cord involvement  
r/o cord involvement 
  
TECHNIQUE:  Sagittal imaging was performed with T2, T1, and STIR 
technique, 
followed by axial T2 imaging. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
The study is mildly degraded by motion artifact. 
  
There is grade 1 anterolisthesis at L4-L5, likely degenerative.  
The spinal 
cord appears normal in caliber and configuration.  There are 
incidental 
hemangiomas at the T11, L1, and L5 inferior endplates.  There is 
T2 and T1 
hyperintense signal within the sacrum, compatible with post 
radiation changes. 
Otherwise, vertebral body and intervertebral disc signal 
intensity appear 
normal.  There is central disc protrusion at L4-L5 and L5-S1 
causing moderate 
spinal canal stenosis and severe bilateral neural foraminal 
stenosis at L4-L5. 
There is no definite evidence of infection. 
  
There is a lobulated, heterogeneous low signal mass with 
peripheral 
enhancement centered in the distal left sacrum involving the 
left greater than 
right S3 foramina measuring approximately 7.7 x 5.2 x 4.9 cm 
(05:44).  
Intrinsic signal of the mass suggests hemorrhage and necrosis.  
There is 
intraspinal extension of the mass through the sacral spinal 
canal with 
extension superiorly to the L4-5 level with compression of the 
posterior 
thecal sac.  The intraspinal component of the mass appears 
similar with 
peripheral enhancement and likely central necrosis and 
hemorrhage.  There is 
partial visualization of the bladder mass with possible 
posterior extension to 
the seminal vesicles  (08:44).  This is not fully evaluated. 
  
There is severe left hydroureteronephrosis to level of the 
bladder. 
  
IMPRESSION: 
  
  
1. Lobulated, heterogeneous 7.7 cm left sacral mass involving 
the left greater 
than right S3 foramina and with extension into the adjacent left 
piriformis 
muscle.  There is additional extension into the sacral spinal 
canal superiorly 
to the L4-5 level with posterior compression of the thecal sac.  
The mass 
enhances peripherally with intrinsic signal suggestive of 
hemorrhage and 
necrosis. 
2. Partial visualization of the bladder mass with possible 
extension 
posteriorly .  Pelvic MRI or comparison to prior imaging can be 
performed for 
better characterization of the mass, if clinically indicated. 
3. No evidence of abnormal cord signal or cord compression. 
4. No suspicious bony abnormalities of the lumbar and upper 
sacral spine 
5. Central disc protrusion at L4-L5 with moderate spinal canal 
stenosis and 
severe bilateral neural foraminal stenosis. 
6. Severe left hydroureteronephrosis. 
  
RECOMMENDATION(S):  Pelvic MRI or comparison to prior imaging 
for better 
characterization of the bladder and sacral mass. 

CXR
 
IMPRESSION:  
  
The tip of the left subclavian Port-A-Cath projects over the 
distal SVC.  No 
pneumothorax. 

___ 02:27AM BLOOD ALT-69* AST-29 AlkPhos-168* TotBili-0.4

MICRO
=====================

   DIRECT ANTIGEN TEST FOR VARICELLA-ZOSTER VIRUS (Final 
___: 
      Negative for Varicella zoster by immunofluorescence. 

 Direct Antigen Test for Herpes Simplex Virus Types 1 & 2

                            **FINAL REPORT ___

   Direct Antigen Test for Herpes Simplex Virus Types 1 & 2 
(Final
      ___: 
      Reported to and read back by ___ ___ (___) ON 
___ @
      3:10PM. 
      POSITIVE FOR HERPES SIMPLEX TYPE 2 (HSV2). 
         Viral antigen identified by immunofluorescence. 

 
Brief Hospital Course:
___ with history of metastatic rectal adencocarcinoma (dx in 
___ with enlarging sacral mass, recently admitted to ___ 
___ for palliative radiation therapy discharged on ___, 
who presented here as a transfer from ___ after 
re-presenting there with ongoing back pain and
new onset leg weakness with difficulty walking, evaluated by 
neurosurgery, no cord compression.

ACUTE/ACTIVE PROBLEMS:
#Metastatic rectal adenocarcinoma
#Sacral mass with spinal canal involvement
#radicular back pain
___ weakness: Patient was discharged from ___ on 
___, then represented to the ED the same day with ongoing 
lumbar back pain and bilateral leg weakness preventing him from 
walking. He was transferred urgently to ___ ED where an urgent 
MRI showed: "Lobulated, heterogeneous 7.7 cm left sacral mass 
involving the left greater than right S3 foramina and with 
extension into the adjacent left piriformis muscle. There is 
additional extension into the sacral spinal canal superiorly 
to the L4-5 level with posterior compression of the thecal sac. 
The mass enhances peripherally with intrinsic signal suggestive 
of hemorrhage and necrosis. Central disc protrusion at L4-L5 
with moderate spinal canal stenosis and severe bilateral neural 
foraminal stenosis. 
" Given the MRI findings and his progressive weakness with 
plantarflexion specifically which would indicate S5 nerve root 
issue. His weakness has worsened over the last 3 days prior to 
admission but is stable today as compared to yesterday. There is 
no acute cord compression, but I suspect that he his radicular 
symptoms are related to nerve root compression. Neurosurgery 
evaluated him on ___ and feel that there is no indication
for neurosurgical intervention and recommend continued radiation 
therapy for this mass. I
spoke with ___ radiation oncologist, who agreed to 
continue treatment upon transfer back to ___. He 
was accepted by the hospitalist at ___ as well. I explained 
this to the patient and he is in agreement. He has ongoing 
severe pain, moderately well controlled with oxycontin 30 mg bid 
standing, oxycodone 10 mg q3h prn for severe pain, and IV 
dilaudid 2 mg q2 prn for
breakthrough pain. We also Continued dexamethasone 4 mg daily as 
per prior home medication
regimen. ___ should be consulted given his lower extremity 
weakness to determine safest discharge plan. He will likely need 
a few radiation treatments to see if he can get symptomatic 
relief which may help his ability to walk.

#Primary HSV2 infection: Incidentally noted a 2 cm localized 
confluent vesicular rash, DFA showed HSV2. Given lack of 
complicated features, disseminated symptoms and that this is 
local, as well as the fact that this patient is not 
immuncompromised as he is not on chemotherapy, can initiate 
Acyclovir regimen with a more conservative duration of 10 days 
(can be as short as 5 days). 
-Acyclovir 400 mg q8h x10 days (___)

CHRONIC/STABLE PROBLEMS:
#Constipation: continue senna and colace

Transitional Issues:
[] See Data section for full MRI report, but it also reads: " 
Consider Pelvic MRI or comparison to prior imaging for better 
characterization of the bladder and sacral mass." 

More than  30 minutes were spent preparing this discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever 
2. Docusate Sodium 100 mg PO BID 
3. Senna 17.2 mg PO QHS 
4. Dexamethasone 4 mg PO DAILY 
5. amLODIPine 10 mg PO DAILY 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q8H Duration: 10 Days  
2.  Heparin 5000 UNIT SC BID  
3.  HYDROmorphone (Dilaudid) ___ mg IV Q2H:PRN BREAKTHROUGH PAIN 
 
4.  OxyCODONE (Immediate Release) 10 mg PO Q3H:PRN Pain - Severe 

  Reason for PRN duplicate override: Alternating agents for 
similar severity 
5.  OxyCODONE SR (OxyCONTIN) 30 mg PO Q12H  
6.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever  
7.  amLODIPine 10 mg PO DAILY  
8.  Dexamethasone 4 mg PO DAILY  
9.  Docusate Sodium 100 mg PO BID  
10.  Senna 17.2 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: #Metastatic rectal adenocarcinoma
#Sacral mass with spinal canal involvement
#radicular back pain
___ weakness:
#Primary HSV2 infection:

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ because you had increasing pain and 
weakness in your back and legs. You had an MRI which showed the 
mass that we already knew was there but your spinal cord was 
fine. You should continue to see the radiation oncology doctors 
for ___ at ___.
 
Followup Instructions:
___